US06063782
2.21 g (0.0199 mole) of potassium tert-butoxide were added to a solution of 3.60 g (0.0199 mole) of methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate and 0.36 g (0.0014 mole) of 18-crown-6 in 220 ml of tetrahydrofuran and the resulting mixture was stirred at room temperature for 45 minutes. 3.60 g (0.0398 mole) of 1-chloro-2-butene (a mixture of cis and trans isomers) was added to the mixture and heated under reflux for 7 hours. 1.80 g (0.0199 mole) of 1-chloro-2-butene were then added thereto and heated under reflux for 22 hours. The reaction mixture was allowed to cool to room temperature, subsequently ice-water was added thereto and the mixture was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous sodium sulfate, and the solvent was distilled off. The residue was purified by column chromatography through silica gel using a 95:5 mixture of toluene and ethyl acetate as an eluent to give 4.50 g (0.0192 mole) of methyl 1-(2-butenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate (cis/trans =24/76) as a yellow oil.

reactant | potassium tert-butoxide | 0.0199 mole, 2.21 g | CC(C)([O-])C.[K+]
reactant | methyl 3-formyl-4,5-dimethylpyrrole-2-carboxylate | 0.0199 mole, 3.60 g | C(=O)C1=C(NC(=C1C)C)C(=O)OC | C9H11NO3
reactant | 1-chloro-2-butene | 0.0398 mole, 3.60 g | ClCC=CC | C4H7Cl
reactant | 1-chloro-2-butene | 0.0199 mole, 1.80 g | ClCC=CC | C4H7Cl
solvent | tetrahydrofuran | 220 ml | O1CCCC1 | C4H8O
catalyst | 18-crown-6 | 0.0014 mole, 0.36 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
product | methyl 1-(2-butenyl)-3-formyl-4,5-dimethylpyrrole-2-carboxylate | 0.0192 mole, 4.50 g | C(C=CC)N1C(=C(C(=C1C)C)C=O)C(=O)OC | C13H17NO3
